US09079866B2
N-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]-N,2-dimethylpropane-1-sulfonamide
The title compound was prepared using methods analogous to those described in Step B of Example 369 using N-methyl-N-(2-(4,4,5,5,-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-methylpropanesulfonamide and 5-(4-bromo-2-fluoro-phenyl)pyrazin-2-amine yielding the title compound after purification by HPLC (32 mg, 41%). MS (ESI): mass calcd. C21H23FN4O2S, 414.15; m/z found, 415.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.59 (s, 1H), 8.11 (d, J=1.3, 1H), 8.04-7.94 (m, 1H), 7.47-7.37 (m, 4H), 7.36-7.31 (m, 1H), 7.30-7.24 (m, 1H), 4.69 (s, 2H), 3.13 (s, 3H), 2.70 (d, J=6.6, 2H), 2.26-2.11 (m, 1H), 1.00 (d, J=6.7, 6H).

reactant | N-methyl-N-(2-(4,4,5,5,-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-methylpropanesulfonamide | CN(S(=O)(=O)CC(C)C)C1=C(C=CC=C1)B1OC(C(O1)(C)C)(C)C | C17H28BNO4S
reactant | 5-(4-bromo-2-fluoro-phenyl)pyrazin-2-amine | BrC1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C10H7BrFN3
product | N-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]-N,2-dimethylpropane-1-sulfonamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)N(S(=O)(=O)CC(C)C)C)F | C21H23FN4O2S
